US08212045B2
To a solution of (R)-N-hydroxy-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (10.4 g, 47.3 mmol) cooled to 0° C. in THF (150 mL) was added methanesulfonyl chloride (5.97 g, 52.1 mmol) followed by N-ethyl-N-isopropylpropan-2-amine (6.75 g, 52.1 mmol) and the reaction stirred for 1 hr at ambient temperature. The reaction was concentrated in vacuo. The material was dissolved in dichloromethane and chromatographed using 8:1 Hexane/EtOAc to 4:1 Hexane/EtOAc (2 columns) to give the (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride as a viscous oil that solidified on standing (12 g, 40 mmol, 85% yield).

reactant | (R)-N-hydroxy-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 47.3 mmol, 10.4 g | ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C9H14ClNO3
reactant | methanesulfonyl chloride | 52.1 mmol, 5.97 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-ethyl-N-isopropylpropan-2-amine | 52.1 mmol, 6.75 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 85% yield | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
